### PR TITLE
Validation soundness - Complete

### PR DESCRIPTION
**Pull request by bhaktishh**
*Description of changes:*

This PR is a work in progress of the soundness of the Cedar validator.

### CODE REVIEW

File: .gitignore [hunk 1]
```diff
@@ -23,4 +23,4 @@ cedar-drt/fuzz/artifacts
 
 # We expect a copy of `cedar-policy/cedar` present in this directory, but do
 # not track it in version control.
-cedar/
+/cedar-policy/cedar
```
Comment (khieta) [inline .gitignore:26]: Probably don't want to change this since CI expects the `cedar/` path

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 2]
```diff
@@ -0,0 +1,236 @@
...
+    | inr h₃ =>
+      right
+      right
+      right
+      rw [← evaluates_subst policy.toExpr request entities]
+      rw [action_matches_env]
+      repeat assumption
+
+theorem typecheck_policy_with_environments_is_sound (policy : Policy) (envs : List Environment) (request : Request) (entities : Entities) :
+(∀ env : Environment, env ∈ envs →
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:208]:
```suggestion
(∀ env ∈ envs →
```

File: cedar-lean/Cedar/Thm/Validation.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+      subst h₅
+      assumption
+    | inr h₅ =>
+    apply forM_implies_all_ok t' (fun x => typecheckPolicyWithEnvironments x schema.toEnvironments)
+    repeat assumption
+
+
+
+
+-- end Cedar.Thm
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation.lean:46]: Probably shouldn't be commented out?

File: cedar-lean/Cedar/Thm/Validation.lean [hunk 4]
```diff
@@ -0,0 +1,46 @@
...
+open Cedar.Validation
+
+/--
+If validation succeeds, then for any request consistent with the schema, either
+(1) evaluation of every policy produces a boolean or (2) returns an error TODO
+-/
+theorem validation_is_sound (policies : Policies) (schema : Schema) (request : Request) (entities : Entities) :
+validate policies schema = .ok () →
+(∀ env ∈ schema.toEnvironments,
+RequestAndEntitiesMatchEnvironment env request entities) →
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation.lean:19]: Might be nice to pull this out into a new predicate `RequestAndEntitiesMatchSchema`

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 5]
```diff
@@ -0,0 +1,236 @@
...
+import Cedar.Thm.Validation.Typechecker
+import Cedar.Thm.Data
+
+namespace Cedar.Thm
+
+open Cedar.Data
+open Cedar.Spec
+open Cedar.Validation
+
+-- for a single expression, evaluates to a boolean value (or appropriate error)
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:13]: Use [doc comments](https://leanprover-community.github.io/contribute/doc.html) where possible, so your notes get added to our neat [auto-generated docs page](https://cedar-policy.github.io/cedar-spec/docs/)

**Review by khieta — COMMENTED** [review]
Good start Bhakti! Thanks for the PR 🙂 

It occurred to me that the partial evaluation proofs also have to reason about a substitution function (see `Partial.Value.subst`), so maybe you can look there for inspiration about how to verify `substituteAction`. Would also be great to unify these definitions, if at all possible.

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 6]
```diff
@@ -1202,3 +1202,16 @@ theorem length_removeAll_le {α : Type u_1} [BEq α] (xs ys : List α) :
   omega
 
 end List
+
+-- forM and mapM
+
+theorem forM_mapM {α β : Type} (f : α → Except β PUnit) (xs : List α) (ys : List PUnit) :
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean:1208]: Formatting nit: see [here](https://github.com/cedar-policy/cedar-spec/blob/main/cedar-lean/GUIDE.md) for a guide on indentation and formatting.

We would usually format this theorem statement so that the name of the theorem and arguments are on one line, the hypotheses and conclusion are indented and on separate lines, `:= by` is on its own line and not indented, and the proof body is indented.  For example:

```
theorem forM_mapM {α β : Type} (f : α → Except β PUnit) (xs : List α) (ys : List PUnit) :
  xs.mapM f = Except.ok ys → xs.forM f = Except.ok () 
:= by
  intro h₀
  rw [List.mapM_ok_iff_forall₂] at h₀
  sorry
```

File: cedar-lean/Cedar/Thm/Validation.lean [hunk 7]
```diff
@@ -0,0 +1,46 @@
...
+AllEvaluateCorrectly policies request entities := by
+intro h₀ h₁
+unfold validate at h₀
+simp [AllEvaluateCorrectly]
+cases h₃ : policies with
+| nil => simp [h₃]
+| cons h' t' =>
+  intro policy pin
+  simp [OneEvaluatesCorrectly]
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation.lean:28]: We follow Mathlib guidelines and avoid using `simp [...]` except to close a goal.  This helps with proof stability. 

We use `simp only [...]` instead.  If you replace a given occurrence of `simp [...]` with `simp? [...]`, Lean will tell you how to rewrite it into `simp only [...]`.

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 8]
```diff
@@ -0,0 +1,236 @@
...
+def OneEvaluatesCorrectly (expr : Expr) (request : Request) (entities : Entities) : Prop :=
+∃ (b : Bool), EvaluatesTo expr request entities b
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:15]: Indent definition / theorem bodies.

**Review by emina — COMMENTED** [review]
Thanks for the PR; very nice progress! :)

Some small comments included.

File: .gitignore (hunk 1 above)
Comment (bhaktishh) [reply .gitignore:26]: Ah, so this line messes up stuff on macos because of case sensitivity; i can restore it but it just means the entire cedar-lean/cedar directory is ignored when i commit. i can just manually change it back and forth for now but it could be worth resolving

File: cedar-lean/Cedar/Thm/Validation/Validator.lean (hunk 5 above)
Comment (bhaktishh) [reply cedar-lean/Cedar/Thm/Validation/Validator.lean:13]: I'll change the comments i have for now, but I'll add additional comments to meet the style guidelines in a future pass.

**Comment by bhaktishh** [comment]
This PR is now complete with the proof of soundness of the Cedar validator.

File: cedar-lean/Cedar/Thm/Validation.lean [hunk 9]
```diff
@@ -0,0 +1,70 @@
...
+
+namespace Cedar.Thm
+
+open Cedar.Data
+open Cedar.Spec
+open Cedar.Validation
+
+/--
+If a set of policies is well-typed (valid) with respect to the schema according to the validator,
+and the input request and entities are consistent with the schema, then every policy "evaluates correctly":
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation.lean:37]: Suggested rephrasing (to match above):

```
then evaluating a policy in this set either produces a boolean value, or throws an error of type
`entityDoesNotExist`, `extensionError`, or `arithBoundsError`. 
```

File: cedar-lean/Cedar/Thm/Validation.lean [hunk 10]
```diff
@@ -0,0 +1,70 @@
...
+-/
+
+import Cedar.Spec
+import Cedar.Data
+import Cedar.Validation
+import Cedar.Thm.Validation.Validator
+
+/-!
+This file contains the top-level correctness properties for the Cedar validator.
+We show that if validation succeeds, then for any request consistent with the schema,
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation.lean:24]: Suggested rephrasing:

```
Suggested rephrasing:  

```
We show that if validation succeeds for a set of policies, then for any request consistent with the schema,
evaluating a policy in this set either produces a boolean value, or throws one of the errors in the set of valid errors.
```
```

File: cedar-lean/Cedar/Thm/Validation.lean [hunk 11]
```diff
@@ -0,0 +1,70 @@
...
+  cases h₃ : policies with
+  | nil => simp only [List.not_mem_nil, false_implies, implies_true]
+  | cons h' t' =>
+    intro policy pin
+    simp only [OneEvaluatesCorrectly]
+    apply typecheck_policy_with_environments_is_sound policy schema.toEnvironments request entities h₁
+    subst h₃
+    simp only [List.forM_cons'] at h₀
+    cases h₄ : (typecheckPolicyWithEnvironments h' schema.toEnvironments) <;> simp only [h₄,
+      Except.bind_err] at h₀
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation.lean:59]: Nit:   for readability, can we putt the entire `simp only ...` step on line 58, or, alternatively, break the line after `<;>`?

File: cedar-lean/Cedar/Thm/Validation.lean [hunk 12]
```diff
@@ -0,0 +1,70 @@
...
+    case ok _ =>
+      rw [List.mem_cons] at pin
+      cases pin with
+      | inl h₅ =>
+        subst h₅
+        assumption
+      | inr h₅ =>
+      apply List.forM_implies_all_ok t' (fun x => typecheckPolicyWithEnvironments x schema.toEnvironments)
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation.lean:67]: Nit:  we usually prefer `λ` instead of `fun` for anonymous functions.

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 13]
```diff
@@ -0,0 +1,401 @@
...
+import Cedar.Thm.Validation.Typechecker
+import Cedar.Thm.Data
+
+namespace Cedar.Thm
+
+open Cedar.Data
+open Cedar.Spec
+open Cedar.Validation
+
+/-- for a single expression, evaluates to a boolean value (or appropriate error) -/
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:29]: Nit:  capitalize "for" (and same for other doc comments).

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 14]
```diff
@@ -0,0 +1,401 @@
...
+def OneEvaluatesCorrectly (expr : Expr) (request : Request) (entities : Entities) : Prop :=
+  ∃ (b : Bool), EvaluatesTo expr request entities b
+
+/-- every policy as an expression evaluates to a boolean value or appropriate error -/
+def AllEvaluateCorrectly (policies : Policies) (request : Request) (entities : Entities) : Prop :=
+  ∀ policy : Policy, policy ∈ policies → OneEvaluatesCorrectly policy.toExpr request entities
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:35]: Lean lets you inline the membership check in the declaration of the quantified variable, like this:

```
 ∀ policy ∈ policies, OneEvaluatesCorrectly policy.toExpr request entities
 ```

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 15]
```diff
@@ -0,0 +1,401 @@
...
+def RequestAndEntitiesMatchSchema (schema : Schema) (request : Request) (entities : Entities) :Prop :=
+  ∀ env ∈ schema.toEnvironments,
+  RequestAndEntitiesMatchEnvironment env request entities
+
+def EvaluatesSubst (expr : Expr) (request : Request) (entities : Entities) : Prop :=
+  evaluate (substituteAction request.action expr) request entities = evaluate expr request entities
+
+
+theorem evaluates_subst_ite {i t e : Expr} {request : Request} {entities : Entities}
+(ih₁ : EvaluatesSubst i request entities)
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:46]: Formatting:  indent hypotheses.

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 16]
```diff
@@ -0,0 +1,401 @@
...
+theorem substitute_action_cons_set : ∀ (h : Expr) (t : List Expr) (uid : EntityUID),
+  substituteAction uid (.set (h :: t)) = .set ((substituteAction uid h) :: t.map (substituteAction uid))
+:= by
+  intro h t uid
+  simp only [substituteAction, mapOnVars, List.attach_def, List.map_pmap_subtype, List.map_cons]
+  simp only [Expr.set.injEq, List.cons.injEq, true_and]
+  unfold substituteAction
+  simp only
+
+theorem forall_map {xs : List Expr} {f g : Expr → Result Value}
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:125]: We have a theorem in `List.lemmas` that is a generalized version of this.  See `List.mapM_congr`.  I suggest using the existing one and deleting this one.

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 17]
```diff
@@ -0,0 +1,401 @@
...
+    rw [forall_map_record h₂]
+
+theorem substitute_action_nil_call : ∀ (uid : EntityUID) (xfn : ExtFun),
+  substituteAction uid (.call xfn []) = .call xfn [] :=
+by
+  intro uid
+  simp only [substituteAction, mapOnVars, List.attach_def, List.pmap, List.map_nil, implies_true]
+
+
+theorem substitute_action_cons_call : ∀ (h : Expr) (t : List Expr) (uid : EntityUID) (xfn : ExtFun),
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:229]: Naming convention:  we generally use `x` for `Expr` variables, `xs` for lists (or sets) of `Expr`s, and we reserve `h` for hypothesis names.

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 18]
```diff
@@ -0,0 +1,401 @@
...
+theorem action_matches_env (env : Environment) (request : Request) (entities : Entities) :
+  RequestAndEntitiesMatchEnvironment env request entities →
+  request.action = env.reqty.action
+:= by
+  intro h₀
+  simp only [RequestAndEntitiesMatchEnvironment, InstanceOfRequestType] at h₀
+  obtain ⟨ ⟨ _, h₁, _, _ ⟩ , _ , _⟩ := h₀
+  exact h₁
+
+theorem typecheck_policy_is_sound (policy : Policy) (env : Environment) (t : CedarType) (request : Request) (entities : Entities) :
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:326]: Naming convention:  we tend to use `ty` for types.

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 19]
```diff
@@ -0,0 +1,401 @@
...
+  RequestAndEntitiesMatchEnvironment env request entities →
+  typecheckPolicy policy env = .ok t →
+  ∃ b : Bool, EvaluatesTo policy.toExpr request entities b
+:= by
+  intro h₁ h₂
+  simp only [typecheckPolicy] at h₂
+  cases h₃ : typeOf (substituteAction env.reqty.action policy.toExpr) [] env <;> simp only [List.empty_eq,
```
Comment (emina) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:333]: Formatting nit: can we keep `simp only` on the same line or break at `<;>`?

**Review by emina — APPROVED** [review]
Really nice PR, thank you!

Left some minor comments on formatting but approving the PR otherwise.

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 20]
```diff
@@ -1146,6 +1146,72 @@ theorem f_implies_g_then_subset {f g : α → Option β} {xs : List α} :
...
+      simp only [forM_cons'] at h₁
+      rw [h₂] at h₁
+      simp only [Except.bind_err] at h₁
+    | ok y' =>
+      simp only [List.forM_cons'] at h₁
+      rw [h₂] at h₁
+      simp only [Except.bind_ok] at h₁
+      simp only [List.mapM'_cons, pure, Except.pure]
+      rw [h₂]
+      obtain ⟨ys, h₃⟩ := ih h₁
```
[the remark this answers is not in the document]
Comment (bhaktishh) [reply cedar-lean/Cedar/Thm/Data/List/Lemmas.lean:1200]: oh i guess i just used them interchangeably. i didn't actually look at the real differences, will change it

File: cedar-lean/Cedar/Thm/Validation/Validator.lean (hunk 16 above)
Comment (bhaktishh) [reply cedar-lean/Cedar/Thm/Validation/Validator.lean:125]: omg ... perfect

**Review by emina — APPROVED** [review]
Looks good to me!

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 21]
```diff
@@ -0,0 +1,373 @@
...
+import Cedar.Thm.Data
+
+namespace Cedar.Thm
+
+open Cedar.Data
+open Cedar.Spec
+open Cedar.Validation
+
+/-- For a single expression, evaluates to a boolean value (or appropriate error) -/
+def OneEvaluatesCorrectly (expr : Expr) (request : Request) (entities : Entities) : Prop :=
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:30]: Suggestion:`OneEvaluatesCorrectly` -> `EvaluatesToBool`

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 22]
```diff
@@ -0,0 +1,373 @@
...
+  ∃ (b : Bool), EvaluatesTo expr request entities b
+
+/-- Every policy as an expression evaluates to a boolean value or appropriate error -/
+def AllEvaluateCorrectly (policies : Policies) (request : Request) (entities : Entities) : Prop :=
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:34]: Suggestion: `AllEvaluateCorrectly` -> `AllEvaluateToBool`

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 23]
```diff
@@ -0,0 +1,373 @@
...
+  ∀ policy ∈ policies, OneEvaluatesCorrectly policy.toExpr request entities
+
+def RequestAndEntitiesMatchSchema (schema : Schema) (request : Request) (entities : Entities) :Prop :=
+  ∀ env ∈ schema.toEnvironments,
+  RequestAndEntitiesMatchEnvironment env request entities
+
+def EvaluatesSubst (expr : Expr) (request : Request) (entities : Entities) : Prop :=
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:41]: Suggestion: `EvaluatesSubst` -> `SubstituteActionPreservesEvaluation`

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 24]
```diff
@@ -0,0 +1,373 @@
...
+  evaluate (substituteAction request.action expr) request entities = evaluate expr request entities
+
+
+theorem evaluates_subst_ite {i t e : Expr} {request : Request} {entities : Entities}
+  (ih₁ : EvaluatesSubst i request entities)
+  (ih₂ : EvaluatesSubst t request entities)
+  (ih₃ : EvaluatesSubst e request entities) :
+  evaluate (substituteAction request.action (Expr.ite i t e)) request entities =
+  evaluate (Expr.ite i t e) request entities
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:50]: I think it would be a little cleaner to move these proofs about `substituteAction` to their own file (e.g., `Thm/Validation/SubstituteAction.lean`)

**Review by khieta — APPROVED** [review]
Thanks for all the hard work 🙂 Left a couple minor comments on naming

File: cedar-lean/Cedar/Thm/Validation.lean [hunk 25]
```diff
@@ -0,0 +1,70 @@
+/-
+ Copyright 2022-2023 Amazon.com, Inc. or its affiliates. All Rights Reserved.
```
Comment (andrewmwells-amazon) [inline cedar-lean/Cedar/Thm/Validation.lean:2]:
```suggestion
 Copyright Cedar Contributors
```

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 26]
```diff
@@ -0,0 +1,373 @@
+/-
+ Copyright 2022-2023 Amazon.com, Inc. or its affiliates. All Rights Reserved.
```
Comment (andrewmwells-amazon) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:2]:
```suggestion
 Copyright Cedar Contributors
```

**Review by andrewmwells-amazon — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Validation/Validator.lean (hunk 24 above)
Comment (bhaktishh) [reply cedar-lean/Cedar/Thm/Validation/Validator.lean:50]: @emina said keeping things in one file < 1000 lines was ideal for like easy access -- any thoughts here? I would probably opt for a different file too.

Comment (emina) [reply cedar-lean/Cedar/Thm/Validation/Validator.lean]: Ah, I should have clarify: we normally keep the main theorem in a separate (small) file, and all the auxiliary ones in separate (usually) big files. An example of the main theorem: https://github.com/cedar-policy/cedar-spec/blob/main/cedar-lean/Cedar/Thm/Typechecking.lean

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 27]
```diff
@@ -1146,6 +1146,72 @@ theorem f_implies_g_then_subset {f g : α → Option β} {xs : List α} :
...
+      simp only [Except.bind_ok] at h₁
+      simp only [List.mapM'_cons, pure, Except.pure]
+      rw [h₂]
+      have ⟨ys, h₃⟩ := ih h₁
+      rw [h₃]
+      simp only [Except.bind_ok]
+      exists (y' :: ys)
+
+
+theorem forM_implies_all_ok {α β : Type} (xs : List α) (f : α → Except β Unit) :
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean:1206]:
```suggestion
theorem forM_ok_implies_all_ok {α β : Type} (xs : List α) (f : α → Except β Unit) :
```

File: cedar-lean/Cedar/Thm/Validation/Validator.lean (hunk 24 above)
Comment (khieta) [reply cedar-lean/Cedar/Thm/Validation/Validator.lean]: I don't feel strongly, so fine either way

File: cedar-lean/Cedar/Thm/Validation/Validator.lean [hunk 28]
```diff
@@ -0,0 +1,373 @@
...
+/-- Every policy as an expression evaluates to a boolean value or appropriate error -/
+def AllEvaluateToBool (policies : Policies) (request : Request) (entities : Entities) : Prop :=
+  ∀ policy ∈ policies, EvaluatesToBool policy.toExpr request entities
+
+def RequestAndEntitiesMatchSchema (schema : Schema) (request : Request) (entities : Entities) :Prop :=
+  ∀ env ∈ schema.toEnvironments,
+  RequestAndEntitiesMatchEnvironment env request entities
+
+def SubstituteActionPreservesEvaluation (expr : Expr) (request : Request) (entities : Entities) : Prop :=
+  evaluate (substituteAction request.action expr) request entities = evaluate expr request entities
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Validation/Validator.lean:42]: Just noticed that you're only using this predicate in hypotheses below. Is there a reason you don't use it in the main lemma statement?

**Review by khieta — APPROVED** [review]

**Review by cdisselkoen — APPROVED** [review]
Looks good. Minor naming suggestion for the generic (List) lemma, for consistency with other `mapM` lemmas

File: cedar-lean/Cedar/Thm/Validation/Validator.lean (hunk 24 above)
Comment (cdisselkoen) [reply cedar-lean/Cedar/Thm/Validation/Validator.lean]: I think I'd personally prefer if files were capped at something more like 500 lines, not 1000 lines -- for larger files, there's probably a sensible way to split it up.  But our current codebase definitely has a bunch of large files.  Not merge blocking for sure

File: cedar-lean/Cedar/Thm/Validation/Validator.lean (hunk 28 above)
Comment (bhaktishh) [reply cedar-lean/Cedar/Thm/Validation/Validator.lean:42]: Just following the structure of the typechecker proofs -- no real reason to do it this way, I guess.

File: cedar-lean/Cedar/Thm/Validation/Validator.lean (hunk 24 above)
Comment (bhaktishh) [reply cedar-lean/Cedar/Thm/Validation/Validator.lean]: I separated it out

**Review by khieta — APPROVED** [review]

**Review by khieta — APPROVED** [review]
